US06265402B1
(3) 2-(3,4-dimethoxyphenyl)morpholin-5-one
A mixture of 2-(2-chloroacetamido)-1-(3,4-dimethoxyphenyl)ethanol (3.30 g, 12.06 mM) and potassium hydroxide (2.98 g, 45.21 mM) in ethanol (300 ml) heated to reflux for one night. Water was added into the reaction solution, the solution was extracted with methylene chloride, the extract was dried over anhydrous sodium sulfate, then the solvent was evaporated in vacuo to obtain a crude product as a brown solid. The crude product was purified by flash chromatography (SiO2; eluted by gradient of range from ethyl acetate to 4% methanol/ethyl acetate), to obtain the above-described compound 1.47 g (yield 51.4%) as a light yellow solid.

reactant | 2-(2-chloroacetamido)-1-(3,4-dimethoxyphenyl)ethanol | 12.06 mM, 3.30 g | ClCC(=O)NCC(O)C1=CC(=C(C=C1)OC)OC | C12H16ClNO4
reactant | potassium hydroxide | 45.21 mM, 2.98 g | [OH-].[K+]
reactant | Water | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)morpholin-5-one | 1.47 g, yield 51.4% | COC=1C=C(C=CC1OC)C1CNC(CO1)=O | C12H15NO4
